US05023255
N-(3,4-Difluorophenyl)glycine methyl ester
A suspension of 3,4-difluoroaniline (15.0 g) and sodium bicarbonate (19.5 g) in methyl chloroacetate (15.2 ml) was stirred at 80°-90° under nitrogen for 16 h. The cooled reaction mixture was poured into ether (100 ml) and filtered. The filtrate was washed with 2N aqueous hydrochloric acid (100 ml), dried and concentrated to give a solid (16.5 g) which was recrystallised from dichloromethane (20 ml) and n-hexane (40 ml) to give the title compound (9.21 g), m.p. 71°-73°.

reactant | 3,4-difluoroaniline | 15.0 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | sodium bicarbonate | 19.5 g | C([O-])(O)=O.[Na+]
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | methyl chloroacetate | 15.2 ml | ClCC(=O)OC | C3H5ClO2
product | N-(3,4-Difluorophenyl)glycine methyl ester | 16.5 g | COC(CNC1=CC(=C(C=C1)F)F)=O | C9H9F2NO2
